US04098898
N-cyano-N'-(2-aminoethyl)-N"-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]guanidine
Reaction of N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)-ethyl]-S-methylisothiourea with excess ethylenediamine at room temperature afforded the title compound m.p. 164°-167° (from acetonitrile-ethanol). (Found: C, 46.9; H, 6.5; N, 35.1; S, 11.1% C11H19N7S requires: C, 47.0; H, 6.8; N, 34.8; S, 11.4%).

reactant | N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)-ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
reactant | ethylenediamine | C(CN)N | C2H8N2
product | N-cyano-N'-(2-aminoethyl)-N"-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=C(N=CN1)C)NCCN | C11H19N7S
